US04234588
Thiourea (1.4 g) and ethyl 2-formyl-3-(3-pyridyl)butyrate (3.4 g) was added to a solution of sodium ethoxide (from 0.78 g sodium) in ethanol (45 ml). The mixture was heated under reflux for 7 hours and evaporated. The residue was taken up in water and extracted with chloroform at pH 13. The pH was adjusted to 7.0 and the mixture allowed to stand at 0° overnight. The solid was filtered off to give 5-[1-(3-pyridyl)ethyl]2-thiouracil (1.83 g) m.p. 225°-228° (from 2-propanol).

reactant | Thiourea | 1.4 g | NC(=S)N | CH4N2S
reactant | ethyl 2-formyl-3-(3-pyridyl)butyrate | 3.4 g | C(=O)C(C(=O)OCC)C(C)C=1C=NC=CC1 | C12H15NO3
reactant | sodium ethoxide | 0.78 g | [O-]CC.[Na+]
solvent | ethanol | 45 ml | C(C)O | C2H6O
product | 5-[1-(3-pyridyl)ethyl]2-thiouracil | 1.83 g | N1=CC(=CC=C1)C(C)C=1C(NC(NC1)=S)=O | C11H11N3OS
